US06858613B2
N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]pyrrolo[1,2-c]pyrimidine-3-carboxamide Hydrochloride
Pyrrolo[1,2-c]pyrimidine-3-carboxylic acid hydrochloride (0.33 g, 1.66 mmol) and TEA (2.0 mL, 14.35 mmol) are dissolved in 15 mL THF. Diphenylphosphinic chloride (0.47 g, 1.99 mmol) is added dropwise. After 1 h, (R)-(+)-3-aminoquinuclidine dihydrochloride is added and the reaction is allowed to stir at RT. After 1 day, 1N NaOH is added and the mixture is extracted with CHCl3. The combined organic layers are dried (MgSO4), filtered and concentrated. The residue is purified by chromatography (Biotage 40S, 90:9:1 CHCl3/MeOH/NH4OH) to afford 0.45 g (100%) of product. The hydrochloride salt is prepared and recrystallized from CH3CN/Et2O.

reactant | Pyrrolo[1,2-c]pyrimidine-3-carboxylic acid hydrochloride | 1.66 mmol, 0.33 g | Cl.C1=NC(=CC=2N1C=CC2)C(=O)O
reactant | Diphenylphosphinic chloride | 1.99 mmol, 0.47 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | (R)-(+)-3-aminoquinuclidine dihydrochloride | Cl.Cl.N[C@H]1CN2CCC1CC2
reactant | NaOH | 1N | [OH-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]pyrrolo[1,2-c]pyrimidine-3-carboxamide Hydrochloride | 0.45 g, 100% | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C2=CC=1N(C=N2)C=CC1 | InChI=1S/C15H18N4O.ClH/c20-15(13-8-12-2-1-5-19(12)10-16-13)17-14-9-18-6-3-11(14)4-7-18;/h1-2,5,8,10-11,14H,3-4,6-7,9H2,(H,17,20);1H/t14-;/m0./s1
